* 
*#SIMETRIX
.node_map ADC_Vgrid_a$6 35
.node_map ADC_Vgrid_a$7 36
.node_map ADC_Vgrid_a$8 37
.node_map ADC_Vgrid_a$9 38
.node_map Count_EN 28
.node_map ADC_Vgrid_a$10 39
.node_map ADC_Vgrid_a$11 40
.node_map ADC_Vgrid_a$0 29
.node_map ADC_Vgrid_a$1 30
.node_map ADC_Vgrid_a$2 31
.node_map ADC_Vgrid_a$3 32
.node_map ADC_CLK 27
.node_map ADC_Vgrid_a$4 33
.node_map ADC_Vgrid_a$5 34
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 10m 0


.PRINT V(#ADC_Vgrid_a$0)
.GRAPH :#ADC_Vgrid_a$0 curveLabel= U_ADC_11-D0 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT V(#ADC_Vgrid_a$9)
.GRAPH :#ADC_Vgrid_a$9 curveLabel= U_ADC_11-D9 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe10  
.PRINT V(#ADC_Vgrid_a$10)
.GRAPH :#ADC_Vgrid_a$10 curveLabel= U_ADC_11-D10 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe11  
.PRINT V(#ADC_Vgrid_a$11)
.GRAPH :#ADC_Vgrid_a$11 curveLabel= U_ADC_11-D11 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe12  
.PRINT V(#ADC_Vgrid_a$1)
.GRAPH :#ADC_Vgrid_a$1 curveLabel= U_ADC_11-D1 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
.PRINT V(#ADC_Vgrid_a$2)
.GRAPH :#ADC_Vgrid_a$2 curveLabel= U_ADC_11-D2 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
.PRINT V(#ADC_Vgrid_a$3)
.GRAPH :#ADC_Vgrid_a$3 curveLabel= U_ADC_11-D3 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe4  
.PRINT V(#ADC_Vgrid_a$4)
.GRAPH :#ADC_Vgrid_a$4 curveLabel= U_ADC_11-D4 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe5  
.PRINT V(#ADC_Vgrid_a$5)
.GRAPH :#ADC_Vgrid_a$5 curveLabel= U_ADC_11-D5 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe6  
.PRINT V(#ADC_Vgrid_a$6)
.GRAPH :#ADC_Vgrid_a$6 curveLabel= U_ADC_11-D6 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe7  
.PRINT V(#ADC_Vgrid_a$7)
.GRAPH :#ADC_Vgrid_a$7 curveLabel= U_ADC_11-D7 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe8  
.PRINT V(#ADC_Vgrid_a$8)
.GRAPH :#ADC_Vgrid_a$8 curveLabel= U_ADC_11-D8 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe9  
X$U19 9 0 10 13 SIMPLIS_SUMMER2_BB vars: K1=1 K2=1
+ OFFSET=0 USE_RIN=0 RIN=10k
X$U22 27 SIMPLIS_DIGI1_D_PULSE_N_N vars: PERIOD=20u WIDTH=10u DELAY=1n ROUT=10 VOL=0 VOH=5 COMP='N' GNDREF='N'
X$U_ADC_11 29 30 31 32 33 34 35 36 37 38 39 40 24 25 26 9 27 28 0 SIMPLIS_DIGI1_D_A2D_CONVERTER_YX$U_ADC_11 vars: RIN=10Meg ROUT=10 TH=2.5 HYSTWD=1 VOL=0 VOH=5 RANGE=3.3 OFFSET=1.65 CODE='UNSIGNED' MIN_CLK=10p TRIG_COND='0_TO_1' SAMPLE_DELAY=1p ENABLE_DELAY=15p CONVERT_TIME=50p DATA_READY_DELAY=10p IC=0 IC_OFL=0 IC_DATA_READY=1
.SUBCKT SIMPLIS_DIGI1_D_A2D_CONVERTER_YX$U_ADC_11 2001 2002 2003 2004 2005 2006 2007 2008 2009 2010 2011 2012 2013 2014 2015 1001 1002 1003 100 vars: RIN=10Meg ROUT=10 TH=2.5 HYSTWD=1 VOL=0 VOH=5 RANGE=2.5 OFFSET=1.25 CODE='UNSIGNED' MIN_CLK=10p TRIG_COND='0_TO_1' SAMPLE_DELAY=1p ENABLE_DELAY=15p CONVERT_TIME=50p DATA_READY_DELAY=10p IC=0 IC_OFL=0 IC_DATA_READY=1
.NODE_MAP D0 2001
.NODE_MAP D1 2002
.NODE_MAP D2 2003
.NODE_MAP D3 2004
.NODE_MAP D4 2005
.NODE_MAP D5 2006
.NODE_MAP D6 2007
.NODE_MAP D7 2008
.NODE_MAP D8 2009
.NODE_MAP D9 2010
.NODE_MAP D10 2011
.NODE_MAP D11 2012
.NODE_MAP POFL 2013
.NODE_MAP NOFL 2014
.NODE_MAP DR 2015
.NODE_MAP IN 1001
.NODE_MAP CLK 1002
.NODE_MAP EN 1003
.NODE_MAP RTN 100
A_D_A2D_CONVERTER %%gnd_ref 100 [ 2001 2002 2003 2004 2005 2006 2007 2008 2009 2010 2011 2012 2013 2014 2015 ] [ 1001 1002 1003 ] MODEL=MD_A2D_CONVERTERM IC={IC} IC_OFL={IC_OFL} IC_DATA_READY={IC_DATA_READY}
.MODEL MD_A2D_CONVERTERM DIGITAL1 D_A2D_CONVERTER
+ RIN={RIN}
+ ROUT={ROUT}
+ TH={TH}
+ HYSTWD={HYSTWD}
+ VOL={VOL}
+ VOH={VOH}
+ RANGE={RANGE}
+ OFFSET={OFFSET}
+ CODE={CODE}
+ MIN_CLK={MIN_CLK}
+ TRIG_COND={TRIG_COND}
+ SAMPLE_DELAY={SAMPLE_DELAY}
+ ENABLE_DELAY={ENABLE_DELAY}
+ CONVERT_TIME={CONVERT_TIME}
+ DATA_READY_DELAY={DATA_READY_DELAY}
.ENDS SIMPLIS_DIGI1_D_A2D_CONVERTER_YX$U_ADC_11

V1 10 0 2
V14 13 0 1.65
V4 28 0 5
.end
